US04997836
To a mixture of 2-methoxymethyl-4-(3,4,5trimethoxybenzoyl)piperazine hydrochloride obtained in Reference Example 6 (0.52 g), 2-(3-pyridyl)thiazol-4-carboxylic acid (0.3 g), triethylamine (0.46 g) and N,N-dimethylformamide (3 ml) is added dropwise, while stirring under icecooling, diethyl cyanophosphonate (0.47 g). The reaction mixture is stirred at 0° C. for one hour, and then poured into ice-water, followed by extraction with ethyl acetate. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is purified by means of a silica gel column chromatography (eluent:AcOEt-CH2Cl2 --CH3OH=10:9:1) to give 2-methoxymethyl-1-[2-(3-pyridyl) thiazol-4-ylcarbonyl]-4-(3,4,5-trimethoxybenzoyl) piperazine. Recrystallization from ethanol gives colorless needles m.p. 149-150° C.

reactant | 2-methoxymethyl-4-(3,4,5trimethoxybenzoyl)piperazine hydrochloride | Cl.COCC1NCCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O
reactant | 2-(3-pyridyl)thiazol-4-carboxylic acid | 0.3 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | triethylamine | 0.46 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.47 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-methoxymethyl-1-[2-(3-pyridyl) thiazol-4-ylcarbonyl]-4-(3,4,5-trimethoxybenzoyl) piperazine | COCC1N(CCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)C=1N=C(SC1)C=1C=NC=CC1 | C25H28N4O6S
